US06143773
Step 2: 6,6-Dimethyl-5-hydroxymethylene-3-methylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a suspension of NaH (76 mg of a 60% dispension in oil, 1.9 mmol) in THF (5 ml,) was added ethyl formate (0.38 mL, 4.7 mmol) at 0° C. After stirring for 10 min a solution of 6,6-dimethyl-3-methylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (305 mg, 0.94 mmol) in THF (7 mL) was added. The cooling bath was removed and the mixture stirred at room temperature for 18 h. After this time MeOH (0.5 mL) followed by water (0.5 mL) were added and the mixture stirred for 10 min. The solvents were removed in vacuo and the residue dissolved in water. The mixture was acidified to pH1 using 1 M HCl and the resultant solid collected by filtration. The solid was partitioned between EtOAc (20 mL) and water (20 mL). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel, eluting with EtOAc: DCM (10:90), to give the title compound (173 mg, 52%) as a pale yellow oil. 1H NMR (250 MHz, CDCl3) δ1.18 (6H, s),1.93-1.99 (4H, m), 2.63 (3H, s), 2.82 (2H, s), 3.56-3.70 (4H, m), 7.56 (1H, d, J=10.4 Hz), 14.63 (1H, d J=10.4 Hz).

reactant | NaH | [H-].[Na+]
reactant | ethyl formate | 4.7 mmol, 0.38 mL | C(=O)OCC | C3H6O2
reactant | 6,6-dimethyl-3-methylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.94 mmol, 305 mg | CC1(CC(C=2C(=C(SC2SC)C(=O)N2CCCC2)C1)=O)C | C16H21NO2S2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 6,6-Dimethyl-5-hydroxymethylene-3-methylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 173 mg, 52% | CC1(C(C(C=2C(=C(SC2SC)C(=O)N2CCCC2)C1)=O)=CO)C | C17H21NO3S2
